US04439514
N-(2-Propynyl)-2,4-dinitroaniline
To a suspension of potassium carbonate (1.0 g) in acetone (10 ml) was added 2-propyn-1-amine (0.26 g, 4.73×10-3 mole). 2,4-Dinitrofluorobenzene (1.32 g, 7.10×10-3 mole) was gradually added with stirring and the reaction mixture was refluxed two hours. After cooling it was poured into excess water and filtered. Recrystallization of the crude solid from ethanol afforded yellow needles; m.p. 151°-152° C. Yield: 0.99 g (95%). I.R. (KBr): 3367 (NH), 3268 (CH), 1618, 1590, 1333 and 1311 cm-1 (Ar-NO2).

reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propyn-1-amine | 4.73×10-3 mole, 0.26 g | C(C#C)N | C3H5N
reactant | 2,4-Dinitrofluorobenzene | 7.10×10-3 mole, 1.32 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | water | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-(2-Propynyl)-2,4-dinitroaniline | C(C#C)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C9H7N3O4
